US04374829
A solution of ε-benzyloxycarbonyl-L-lysine ethyl ester hydrochloride (2.94 g.) in water (10 ml.) is made basic with 15 ml. of saturated aqueous potassium bicarbonate and extracted with CH2Cl2. The extract is dried over MgSO4 and concentrated to dryness. The residue, ε-Benzyl oxycarbonyl-L-lysine ethyl ester, is dissolved in THF (20 ml.) and pyruvoylproline (555 mg.) and powdered No. 4A molecular sieves (1.0 g.) are added. The mixture is stirred at room temperature for 4 hours. Sodium cyanoborohydride (630 mg.) in 1 ml. of CH3OH is added over 2 hours and the mixture is stirred overnight. It is then filtered, concentrated to dryness, and the residue partitioned between water (10 ml.) and CH2Cl2 (15 ml.). The aqueous phase is absorbed on strong acid ion-exchange resin and eluted with 4% pyridine in water to yield 470 mg. of N-(1(S)-ethoxycarbonyl-5-benzyloxycarbonylaminopentyl)-D,L-alanyl-L-proline. The protecting group is removed by hydrogenation in ethanol-water 1:1 over 10 % Pd/c catalyst at 40 ps.i. The mixture is filtered and the filtrate taken to dryness. The residue in methanol is chromatographed on an LH-20 column to give the desired N-(1(S)-ethoxycarbonyl-5-aminopentyl)-D,L-alanyl-L-proline. The mass spectrum of silylated material gave a peak at 559 m/e for the trisilylated derivative and a peak at 487 m/e for the disilylated derivative. The nmr (D2O) confirmed the structure.

reactant | ε-benzyloxycarbonyl-L-lysine ethyl ester hydrochloride | 2.94 g | Cl.C(C)OC([C@@H](N)CCCC(N)C(=O)OCC1=CC=CC=C1)=O
reactant | N-(1(S)-ethoxycarbonyl-5-benzyloxycarbonylaminopentyl)-D,L-alanyl-L-proline | C(C)OC(=O)[C@H](CCCCNC(=O)OCC1=CC=CC=C1)NC(C)C(=O)N1[C@H](C(=O)O)CCC1 | C24H35N3O7
solvent | water | 10 ml | O | H2O
product | N-(1(S)-ethoxycarbonyl-5-aminopentyl)-D,L-alanyl-L-proline | C(C)OC(=O)[C@H](CCCCN)NC(C)C(=O)N1[C@H](C(=O)O)CCC1 | C16H29N3O5
